Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
left foot ulcer
 
Major Surgical or Invasive Procedure:
___: Excisional debridement down to tendon of left diabetic 
foot ulcer
___: diagnostic angiogram, left lower extremity 

 
History of Present Illness:
Ms. ___ presents for evaluation of an infected left foot
diabetic ulcer.  She complains of severe pain and tenderness 
over
the site. She tells me that approximately 7 weeks ago, she
dropped a pacemaker cell onto her left foot while in the
hospital.  She developed a blister that broke down and became
infected. She has received topical wound care but no vascular
assessment as of yet.  
 
Past Medical History:
HTN, labile  
HLD  
HYPOTHYROIDISM  
RETINAL ARTERY OCCLUSION - BRANCH  
MIGRAINE EQUIVALENT  
CAD/MI (MIs in ___ and ___: This demonstrated a mid  
RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis)  
CHF (EF 60-65% in ___  
OBESITY,  
insulin-dependent DMII  
Gout  
Renal artery stenosis  
CKDIII  
Anemia  
afib on anticoagulation  
Depression 

 
Social History:
___
Family History:
Father died of colon cancer in ___.
 
Physical Exam:
At admission: 

VS: 96.6 78 126/87 16 98% RA 
General: Alert, oriented, no acute distress  
HEENT: Pale conjunctivae, MMM, oropharynx clear  
Neck: supple, no LAD  
Lungs: CTAB anteriorly
CV: ___
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 

or guarding, no organomegaly  
Ext: 2+ pitting edema ___ bilateral heel ulceration; dorsum of
left foot with purulent, foul smelling defect with eschar edges
and erythema extending from it. ulceration along posterior left
leg 2x2cm
Left: DP ___ none; Right: ___ doppler
Neuro: CN2-12 intact, no focal deficits 

At discharge: 

GEN: NAD, annoyed--speaking in short, sarcastic, 
profranity-filled sentences
HEENT: EOMI, MMM
CV: RRR
PULM: non-labored breathing
ABD: soft, nontender, nondistended
EXT: 2+ edema bilaterally, approximately 2x2 cm ulcer over left 
lateral dorsum of foot without foul odor or drainage, minimal 
surrounding erythema, L shallow heel ulcer, shallow clean based 
ulcer over posterior aspect left calf; right shallow clean based 
heel ulcer dressed with adaptic, Kerlix and ACE
NEURO: A&Ox3

 
Pertinent Results:
ABI/PVR (___): 
 
FINDINGS:  
  
TBIs obtained bilaterally and measuring 0.28 in the right lower 
extremity and 0.19 the left lower extremity. 
  
Wound Culture (L foot) ___: 

                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S

 
Brief Hospital Course:
Ms. ___ was admitted to ___ On ___ with a non-healing 
left diabetic foot ulcer. She was started on IV antibiotics and 
taken to the Operating Room on ___ for debridement and 
application of VAC. For full details of the procedure, please 
refer to the separately dictated Operative Report. She was 
returned to the PACU in stable condition and after satisfactory 
recovery from anesthesia, she was transferred to the floor for 
further monitoring and wound care. 

___ was consulted on ___ and recommended discharge to rehab.

On ___, patient demanded that wound VAC be removed and 
refused replacement. Plastic surgery was consulted for wound 
care and also recommended VAC therapy. Patient was counseled 
that this was optimal medical care, yet she persisted in her 
refusal. Daily wet-to-dry dressings were initiated. ABI/PVRs 
were done on ___ and were consistent with severe peripheral 
vascular disease. Both Vascular Surgery and Plastics were in 
agreement that patient should have an angiogram. She was 
consented for procedure and taken to the Endovascular Suite on 
___. She was on the table and Foley had been placed when she 
refused all procedures. She was returned to the floor where she 
continued to refused recommended treatment. 

She was transitioned to oral antibiotics on ___ when culture 
data resulted. 

She returned to the Operating Room on ___ for angiogram which 
showed long segment occlusion of the left SFA. Vein mapping 
studies were obtained for OR planning for a left femoral to 
AK-popliteal artery bypass. 

She was discharged to rehab on ___ with plan for antibiotics 
to continue through ___. She will follow up in clinic with 
Dr. ___ to discuss operative planning. 

At the time of discharge, she was tolerating a regular diet, 
ambulating independently to the rest room and with assistance in 
the hallways, voiding spontaneously and pain was well 
controlled. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Digoxin 0.125 mg PO 3X/WEEK (___) 
4. Ezetimibe 10 mg PO DAILY 
5. Febuxostat 40 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. HydrALAZINE 20 mg PO Q8H 
8. Isosorbide Dinitrate 20 mg PO TID 
9. Levothyroxine Sodium 112 mcg PO DAILY 
10. Methylprednisolone 4 mg PO DAILY 
11. Metoprolol Succinate XL 200 mg PO DAILY 
12. Miconazole Powder 2% 1 Appl TP BID 
13. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

14. Prasugrel 10 mg PO DAILY 
15. Simethicone 40-80 mg PO QID:PRN bloating 
16. Torsemide 60 mg PO BID 
17. Vitamin D ___ UNIT PO DAILY 
18. Acetaminophen 650 mg PO Q8H 
19. Bisacodyl ___AILY:PRN constipation 
20. Docusate Sodium 100 mg PO BID constipation 
21. FoLIC Acid 1 mg PO DAILY 
22. Omeprazole 20 mg PO DAILY 
23. Polyethylene Glycol 17 g PO DAILY constipation 
24. Senna 8.6 mg PO BID:PRN constipation 
25. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
26. Fluticasone Propionate 110mcg 2 PUFF IH BID 
27. Metolazone 2.5 mg PO PRN as directed by cardiologist 
28. nystatin 100,000 unit/gram topical ___ daily 
29. Spironolactone 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*12 Tablet Refills:*0 
3.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
4.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*18 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
6.  Acetaminophen 650 mg PO Q8H  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
8.  Aspirin 81 mg PO DAILY  
9.  Bisacodyl ___AILY:PRN constipation  
10.  BuPROPion (Sustained Release) 150 mg PO QAM  
11.  Digoxin 0.125 mg PO 3X/WEEK (___)  
12.  Docusate Sodium 100 mg PO BID constipation  
13.  Ezetimibe 10 mg PO DAILY  
14.  Febuxostat 40 mg PO DAILY  
15.  Ferrous Sulfate 325 mg PO BID  
16.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
17.  FoLIC Acid 1 mg PO DAILY  
18.  HydrALAZINE 20 mg PO Q8H  
19.  Isosorbide Dinitrate 20 mg PO TID  
20.  Levothyroxine Sodium 112 mcg PO DAILY  
21.  Methylprednisolone 4 mg PO DAILY  
22.  Metolazone 2.5 mg PO PRN as directed by cardiologist  
23.  Metoprolol Succinate XL 200 mg PO DAILY  
24.  Miconazole Powder 2% 1 Appl TP BID  
25.  nystatin 100,000 unit/gram topical ___ daily  
26.  Omeprazole 20 mg PO DAILY  
27.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Severe  
28.  Polyethylene Glycol 17 g PO DAILY constipation  
29.  Prasugrel 10 mg PO DAILY  
30.  Senna 8.6 mg PO BID:PRN constipation  
31.  Simethicone 40-80 mg PO QID:PRN bloating  
32.  Spironolactone 12.5 mg PO DAILY  
33.  Torsemide 60 mg PO BID  
34.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
non-healing left lateral diabetic foot ulcer
long segment left SFA occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with a non-healing left foot ulcer. 
You were taken to the Operating Room for debridement and a VAC 
was applied to the wound. You then refused replacement of the 
VAC and were started on wet-to-dry dressing changes. You were 
started on antibiotics (Augmentin) which you are being 
discharged with. Plastic Surgery was consulted and also 
recommended VAC treatment and angiogram. You were taken to the 
Operating Room for angiogram which showed blockage of arteries 
in your leg. You will need a bypass surgery at a later date. you 
are being discharged to rehab with follow up in 2 weeks with Dr. 
___ to discuss the results of your vein mapping studies and 
to discuss the date of your operation.

Thank you for allowing us to participate in your care. 

Sincerely, 

Your ___ Surgery Team 

 
Followup Instructions:
___